US07435837B2
Treatment of (−)-[7-bromo-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (2.0 g, 5.22 mmol) with 2-methylphenylboronic acid (1.06 g, 7.83 mmol) generally according to described for Intermediate 37 provided 1.71 g (83%) (−)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. [α]D25=−44.6 (c 10.0 in methanol).

reactant | (−)-[7-bromo-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 5.22 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2-methylphenylboronic acid | 7.83 mmol, 1.06 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | (−)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.71 g, 83% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C | C23H22O4S
